US07906511B2
2-Dimethylamino-4-trifluoromethylpyrimidine (Reference Compound No. 1-1)
2-Chloro-4-trifluoromethylpyrimidine (600 μL, 5.0 mmol) was dissolved with 2.0M dimethylamine in methanol (10 mL), and stirred for 2 hours in a sealed tube at 60° C. The reaction mixture was diluted with ethyl acetate (50 mL), and the whole was washed with water (50 mL) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 640 mg of the title Reference Compound as a colorless oil (Yield: 0.67%).

reactant | 2-Chloro-4-trifluoromethylpyrimidine | 5.0 mmol, 600 μL | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | dimethylamine | 2.0M | CNC | C2H7N
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Dimethylamino-4-trifluoromethylpyrimidine | Yield: 0.67% | CN(C1=NC=CC(=N1)C(F)(F)F)C | C7H8F3N3
